// Point Netlist Generated on: Feb 24 13:52:27 2023
// Generated for: spectre
// Design Netlist Generated on: Feb 24 13:51:47 2023
// Design library name: ece483_sp23
// Design cell name: tb_mp3
// Design view name: schematic
simulator lang=spectre
global 0
parameters cmrr_sim=0 VCM=0 VDD=1.8 VSS=0
include "/class/ece483/models/models_ece483"

// Library name: ece483_sp23
// Cell name: ota
// View name: schematic
subckt ota VDD VSS ibp10u vin vip vout
    N3 (ibp10u ibp10u VSS VSS) tsmc18dN w=9.675u l=4.32u as=4.35375e-12 \
        ad=4.35375e-12 ps=20.25u pd=20.25u m=1 region=sat
    N2 (net3 ibp10u VSS VSS) tsmc18dN w=9.675u l=4.32u as=4.35375e-12 \
        ad=4.35375e-12 ps=20.25u pd=20.25u m=12 region=sat
    N1 (vout vin net3 VSS) tsmc18dN w=16.29u l=3.96u as=7.3305e-12 \
        ad=7.3305e-12 ps=33.48u pd=33.48u m=6 region=sat
    N0 (net4 vip net3 VSS) tsmc18dN w=16.29u l=3.96u as=7.3305e-12 \
        ad=7.3305e-12 ps=33.48u pd=33.48u m=6 region=sat
    P1 (net4 net4 VDD VDD) tsmc18dP w=18.18u l=1.08u as=8.181e-12 \
        ad=8.181e-12 ps=37.26u pd=37.26u m=6 region=sat
    P0 (vout net4 VDD VDD) tsmc18dP w=18.18u l=1.08u as=8.181e-12 \
        ad=8.181e-12 ps=37.26u pd=37.26u m=6 region=sat
ends ota
// End of subcircuit definition.

// Library name: ece483_sp23
// Cell name: tb_mp3
// View name: schematic
__ECE483_SP23_OTA (VDD VSS ibp10u vin vip vout) ota
V3 (vin VSS) vsource dc=VCM mag=cmrr_sim type=dc
V2 (vip vin) vsource dc=0 mag=(1-cmrr_sim) type=dc
V1 (VDD VSS) vsource dc=VDD type=dc
V0 (VSS 0) vsource dc=VSS type=dc
C0 (vout VSS) capacitor c=2p
I2 (VDD ibp10u) isource dc=10u type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
ac ac start=1 stop=1G annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
