// Point Netlist Generated on: Mar 28 15:08:21 2023
// Generated for: spectre
// Design Netlist Generated on: Mar 28 15:02:02 2023
// Design library name: ece483_sp23
// Design cell name: tb_mp4_test
// Design view name: schematic
simulator lang=spectre
global 0
parameters t_step=10n vstep=300m CL=1p VCM=0.6 VDD=1.4 VSS=0
include "/class/ece483/models/models_ece483"

// Library name: ece483_sp23
// Cell name: fc_ota
// View name: schematic
subckt fc_ota vout ibn10u VDD vin vip VSS
    P7 (vcas_mirr_n ibn10u net8 VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=8 region=sat
    P6 (vbp_mirror ibn10u net6 VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=8 region=sat
    P27 (net6 vbp_mirror VDD VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=4 region=sat
    P18 (vs_p2 vip vsource VSS) tsmc18dP w=1.8u l=270.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=24 region=sat
    P5 (net7 vbp_mirror VDD VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=24 region=sat
    P17 (vs_p1 vin vsource VSS) tsmc18dP w=1.8u l=270.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=24 region=sat
    P4 (net8 vbp_mirror VDD VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=4 region=sat
    P8 (vsource ibn10u net7 VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=48 region=sat
    P13 (vg_p ibn10u net4 VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=8 region=sat
    P12 (vout ibn10u net1 VDD) tsmc18dP w=1.8u l=540.0n as=8.1e-13 \
        ad=8.1e-13 ps=4.5u pd=4.5u m=8 region=sat
    P11 (net1 vg_p VDD VDD) tsmc18dP w=1.8u l=180.0n as=8.1e-13 ad=8.1e-13 \
        ps=4.5u pd=4.5u m=2 region=sat
    P14 (net4 vg_p VDD VDD) tsmc18dP w=1.8u l=180.0n as=8.1e-13 ad=8.1e-13 \
        ps=4.5u pd=4.5u m=2 region=sat
    N4 (vout vcas_mirr_n vs_p1 VSS) tsmc18dN w=720.0n l=810.0n as=3.24e-13 \
        ad=3.24e-13 ps=2.34u pd=2.34u m=6 region=sat
    N7 (vs_p2 vmirr_n VSS VSS) tsmc18dN w=360.0n l=540.0n as=1.62e-13 \
        ad=1.62e-13 ps=1.62u pd=1.62u m=16 region=sat
    N8 (vs_p1 vmirr_n VSS VSS) tsmc18dN w=360.0n l=540.0n as=1.62e-13 \
        ad=1.62e-13 ps=1.62u pd=1.62u m=16 region=sat
    N3 (net9 vmirr_n VSS VSS) tsmc18dN w=360.0n l=540.0n as=1.62e-13 \
        ad=1.62e-13 ps=1.62u pd=1.62u m=4 region=sat
    N2 (vg_p vcas_mirr_n vs_p2 VSS) tsmc18dN w=720.0n l=810.0n as=3.24e-13 \
        ad=3.24e-13 ps=2.34u pd=2.34u m=6 region=sat
    N1 (vmirr_n vcas_mirr_n net9 VSS) tsmc18dN w=720.0n l=810.0n \
        as=3.24e-13 ad=3.24e-13 ps=2.34u pd=2.34u m=6 region=sat
    R1 (vbp_mirror ibn10u) resistor r=21K m=1
    R0 (vcas_mirr_n vmirr_n) resistor r=21K m=1
ends fc_ota
// End of subcircuit definition.

// Library name: ece483_sp23
// Cell name: tb_mp4_test
// View name: schematic
VSTB (vout net1) vsource dc=0 type=dc
V1 (VDD VSS) vsource dc=VDD type=dc
V0 (VSS 0) vsource dc=VSS type=dc
I2 (net4 VSS) isource dc=10u type=dc
C0 (vout VSS) capacitor c=CL
V2 (vip VSS) vsource dc=VCM type=pulse val0=VCM - vstep/2 val1=VCM + vstep/2 \
         period=1 delay=t_step rise=1n fall=1n
__ECE483_SP23_FC (vout net4 VDD net1 vip VSS) fc_ota
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
stb stb start=1 stop=2G dec=101 probe=VSTB localgnd=VSS annotate=status 
tran tran stop=200n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save __ECE483_SP23_FC:3 
saveOptions options save=allpub
